US07348438B2
5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-1-(3-trifluoromethyl-benzyl)-1H-benzoimidazole
To 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole (355 mg) in DMF (5 mL) was added potassium carbonate powder (548 mg) and 3-trifluoromethylbenzyl bromide (947 mg). The resulting mixture was stirred at room temperature overnight. The reaction mixture was quenched with water, extracted with EtOAc, and dried over Na2SO4. The crude product was purified by silica gel chromatography (10%-40% EtOAc/hexanes) to yield the title compound as an orange solid.

reactant | 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole | 355 mg | ClC1=CC2=C(NC(=N2)CC(F)(F)F)C=C1Cl | C9H5Cl2F3N2
reactant | potassium carbonate | 548 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-trifluoromethylbenzyl bromide | 947 mg | FC(C=1C=C(CBr)C=CC1)(F)F | C8H6BrF3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-1-(3-trifluoromethyl-benzyl)-1H-benzoimidazole | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CC2=CC(=CC=C2)C(F)(F)F)C=C1Cl | C17H10Cl2F6N2
